US07893074B2
36-1 Preparation of 2-amino-N-methyl-benzamide
To a suspension of 16.3 g (100 mmol) of isatoic anhydride in 100 mL of H2O is added portionwise 100 mL of 2N methylamine-tetrahydrofuran solution (200 mmol) at room temperature. The reaction mixture is stirred for 1 hour and then extracted with AcOEt. The organic layer is washed with H2O and brine, dried over Na2SO4, and concentrated under reduced pressure to give 13.79 g of desired product, 2-amino-N-methyl-benzamide (92 mmol, 92%) as colorless solid.

reactant | isatoic anhydride | 100 mmol, 16.3 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | methylamine tetrahydrofuran | 200 mmol, 2N, 100 mL | CN.O1CCCC1
solvent | H2O | 100 mL | O | H2O
product | 2-amino-N-methyl-benzamide | 92 mmol, 92% | NC1=C(C(=O)NC)C=CC=C1 | C8H10N2O
